US04971982
9.5 g of 4-(5-amino-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile were dissolved in 150 ml of acetic acid and 100 ml of water. 3.16 g of sodium nitrite in 10 ml of water were added at such a rate as to keep the temperature below 5° C. After 15 minutes 23 g of potassium iodide in 20 ml of water were added and the mixture was stirred at room temperature for 1 hour. The mixture was then poured into 1 l of 2M sodium hydroxide solution and extracted with ethyl acetate. The organic extract was dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution to give 4.78 g of 4-(5-iodo-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile which was used without further purification.

reactant | 4-(5-amino-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 9.5 g | NC=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15N3O
reactant | sodium nitrite | 3.16 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 23 g | [I-].[K+]
reactant | sodium hydroxide | 2M, 1 l | [OH-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-(5-iodo-2-pyridyl)-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 4.78 g | IC=1C=CC(=NC1)C1=CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H13IN2O
